US07208497B2
Step 1: 2-(3,4-Dimethoxyphenoxy)ethanol
A mixture of 3,4-dimethoxyphenol (155 mg, 1.0 mmol) and 60% sodium hydride (50 mg, 1.25 mmol) in DMA (6 ml) was stirred for 20 min under an atmosphere of nitrogen. 2-(2-Pyranyloxy)ethylbromide (220 mg, 1.0 mmol) was added dropwise. The reaction mixture was stirred for 6 hours at room temperature and then the mixture was poured into water (100 ml). The mixture was extracted with ethyl acetate (2×30 ml) and the combined organic extracts were dried (MgSO4). The organic phase was concentrated and the residue was dissolved in 2-propanol (30 ml) and 4 N HCl (20 ml) was added. The mixture was heated at reflux temperature for 30 min and then stirred at room temperature for 2 hours. The reaction mixture was concentrated and the residue was dissolved in ethyl acetate (50 ml). The organic solution was dried (MgSO4) and the solvent was evaporated. The oily residue was purified on silica gel (50 g) eluting with a mixture of heptane and ethyl acetate (3:2). This afforded 100 mg (50%) of 2-(3,4-dimethoxyphenoxy)ethanol.

reactant | 3,4-dimethoxyphenol | 1.0 mmol, 155 mg | COC=1C=C(C=CC1OC)O | C8H10O3
reactant | sodium hydride | 1.25 mmol, 50 mg | [H-].[Na+]
reactant | 2-(2-Pyranyloxy)ethylbromide | 1.0 mmol, 220 mg | O1C(C=CC=C1)OCCBr | C7H9BrO2
reactant | water | 100 ml | O | H2O
solvent | DMA | 6 ml | CC(=O)N(C)C | C4H9NO
product | 2-(3,4-Dimethoxyphenoxy)ethanol | COC=1C=C(OCCO)C=CC1OC | C10H14O4
